US04056527
Analogously to Example 1, N-(4-chlorophenyl)-bis(chlorocarbonyl)-amine and acetone-S-methyl-isothiosemicarbazone hydroiodide with addition of triethylamine, yielded 1-(4-chlorophenyl)-3-isopropylideneamino-4-methylmercaptotetrahydro-1,3,5-triazine-2,6-dione as a colorless powder of melting point 142°-144° C.

reactant | N-(4-chlorophenyl)-bis(chlorocarbonyl)-amine | ClC1=CC=C(C=C1)N(C(=O)Cl)C(=O)Cl | C8H4Cl3NO2
reactant | acetone-S-methyl-isothiosemicarbazone hydroiodide | I.CSC(NN=C(C)C)=N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(4-chlorophenyl)-3-isopropylideneamino-4-methylmercaptotetrahydro-1,3,5-triazine-2,6-dione | ClC1=CC=C(C=C1)N1C(N(C(NC1=O)SC)N=C(C)C)=O | C13H15ClN4O2S
